US06511974B1
[2-(3-Methyl-pyrazol-1-yl)-4-trifluoromethyl-pyrimidin-5-yl]-(5H,11H-pyrrolo[2,1-c][1,4]benzodiazepin-10-yl)-methanone
To 60% sodium hydride in oil (0.15 g, degreased with hexane) in dimethylformamide (25 ml) was added 3-methylpyrazole (0.25 g). When the hydrogen evolution subsided, (2-chloro-4-trifluoromethyl-pyrimidin-5-yl)-(5H,11H-pyrrolo[2,1-c][1,4]benzodiazepin-10-yl)-methanone (0.98 g) was added. The reaction mixture was heated for 18 hours in a sand bath (internal temperature 110° C.). The mixture was then poured onto ice and further diluted with a saturated saline solution. The precipitate was filtered, redissolved in dichloromethane and dried over anhydrous sodium sulfate. Purification was aided by filtration through a short column of hydrous sodium magnesium silicate and further elution with several volumes of dichloromethane. The combined eluate was concentrated on a hot plate with the gradual addition of hexane until crystallization occurred. After cooling, the solid was collected by filtration to yield the title compound (0.54 g) as colorless crystals, m.p. 202-204° C.

reactant | sodium hydride | [H-].[Na+]
reactant | 3-methylpyrazole | 0.25 g | CC1=NNC=C1 | C4H6N2
reactant | hydrogen | [H][H] | H2
reactant | (2-chloro-4-trifluoromethyl-pyrimidin-5-yl)-(5H,11H-pyrrolo[2,1-c][1,4]benzodiazepin-10-yl)-methanone | 0.98 g | ClC1=NC=C(C(=N1)C(F)(F)F)C(=O)N1CC=2N(CC3=C1C=CC=C3)C=CC2 | C18H12ClF3N4O
solvent | dimethylformamide | 25 ml | CN(C=O)C | C3H7NO
solvent | hexane | CCCCCC | C6H14
product | [2-(3-Methyl-pyrazol-1-yl)-4-trifluoromethyl-pyrimidin-5-yl]-(5H,11H-pyrrolo[2,1-c][1,4]benzodiazepin-10-yl)-methanone | 0.54 g | CC1=NN(C=C1)C1=NC=C(C(=N1)C(F)(F)F)C(=O)N1CC=2N(CC3=C1C=CC=C3)C=CC2 | C22H17F3N6O
